US07309703B2
A. 4-Chloro-3-methyl-benzoyl chloride
To a suspension of 52.55 g (0.31 mol) of 4-chloro-3-methyl-benzoic acid in CH2Cl2 (1.2 L) with DMF (1 mL) at 0° C. under N2 with an outlet sparging through 2.5 N sodium hydroxide was added 29.56 mL (0.339 mol) of oxalyl chloride. The mixture was allowed to warm to room temperature over a 3 h period. The reaction mixture was concentrated and taken forward crude.

reactant | 4-chloro-3-methyl-benzoic acid | 0.31 mol, 52.55 g | ClC1=C(C=C(C(=O)O)C=C1)C | C8H7ClO2
reactant | DMF | 1 mL | CN(C)C=O | C3H7NO
reactant | oxalyl chloride | 0.339 mol, 29.56 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | CH2Cl2 | 1.2 L | C(Cl)Cl | CH2Cl2
product | 4-Chloro-3-methyl-benzoyl chloride | ClC1=C(C=C(C(=O)Cl)C=C1)C | C8H6Cl2O
